US05389638
A solution of phenylsuccinic acid (20.0 g, 0.10 mol), acetyl chloride, and 200 mL of toluene was stirred at reflux for 5.5 hours, removing H2O azeotropically during the reaction. After cooling to room temperature, toluene was evaporated in vacuo, and the residue was crystallized from ether to obtain 12.2 g of phenyl succinic anhydride as a white solid.

reactant | phenylsuccinic acid | 0.10 mol, 20.0 g | C1(=CC=CC=C1)C(C(=O)O)CC(=O)O | C10H10O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | phenyl succinic anhydride | 12.2 g | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
